US09238639B2
(6-((2,4-Dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetic acid
To a mixture of methyl(6-((2,4-dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate (147 mg), MeOH (2.0 mL) and THF (dry) (2.0 mL) was added 1N NaOH (1.12 mL) at room temperature. The mixture was stirred at room temperature for 2 h, and then concentrated in vacuo. The residue was neutralized with 1N HCl, and the mixture was extracted with EtOAc. The organic layer was washed with brine and, dried over MgSO4, and concentrated in vacuo. The precipitate was collected by filtration, and crystallized from EtOAc-hexane to give the title compound (118 mg).

reactant | methyl(6-((2,4-dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate | 147 mg | COC(CC1=COC2=C1C(=CC(=C2C)OCC2=C(C=C(C=C2)Cl)Cl)C)=O | C20H18Cl2O4
reactant | MeOH | 2.0 mL | CO | CH4O
reactant | NaOH | 1N, 1.12 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (6-((2,4-Dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetic acid | 118 mg | ClC1=C(COC2=C(C3=C(C(=CO3)CC(=O)O)C(=C2)C)C)C=CC(=C1)Cl | C19H16Cl2O4
